US08222219B2
1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(5-bromo-2-thienylmethyl)-4-chlorobenzene obtained in Example 128-(4) and 4-cyanophenylboronic acid were treated in a manner similar to Example 168-(1) to give 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-(4-cyanophenyl)-2-thienylmethyl) benzene as colorless powder. APCI-Mass m/Z 657/659 (M+NH4). (2) The above 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-(4-cyanophenyl)-2-thienylmethyl)benzene (128 mg) was suspended in ethanol (2 ml) and added thereto was a concentrated hydrochloric acid aqueous solution (1 ml). The mixture was heated reflux for 8.5 hours. The reaction solution was cooled and diluted with ethyl acetate and water. The organic layer was washed with water and successively washed with brine. After drying over magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=9:1) to give the desired 1-(β-D-glucopyranosyl)-4-chloro-3-(5-(4-ethoxycarbonylphenyl)-2-thienylmethyl)benzene (39 mg) as pale yellow foam. APCI-Mass m/Z 536/538 (M+NH4).

reactant | 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-(4-cyanophenyl)-2-thienylmethyl)benzene | 128 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C=C1)Cl)CC=1SC(=CC1)C1=CC=C(C=C1)C#N | C32H30ClNO9S
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(β-D-glucopyranosyl)-4-chloro-3-(5-(4-ethoxycarbonylphenyl)-2-thienylmethyl)benzene | 39 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C=C1)Cl)CC=1SC(=CC1)C1=CC=C(C=C1)C(=O)OCC | C26H27ClO7S
